US07129232B2
To a suspension of tert-butyl {2-[({[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]amino}carbonyl)amino]ethyl}carbamate (10.8 g) in methanol (50 ml) was added 4M hydrogen chloride solution in dioxane (50 ml). The mixture was stirred at room temperature for 3 hours. The solvent was concentrated in vacuo, and the residue was triturated with ethyl acetate and dried in vacuo to give N-(2-aminoethyl)-N′-(5-amino-1-methyl-1H-pyrazol-4-yl)urea trihydrochloride (5.6 g) as a solid.

reactant | tert-butyl {2-[({[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]amino}carbonyl)amino]ethyl}carbamate | 10.8 g | CN1N=CC(=C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)NC(=O)NCCNC(OC(C)(C)C)=O | C31H36N6O3
reactant | hydrogen chloride | 4M | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | N-(2-aminoethyl)-N′-(5-amino-1-methyl-1H-pyrazol-4-yl)urea trihydrochloride | 5.6 g | Cl.Cl.Cl.NCCNC(=O)NC=1C=NN(C1N)C | InChI=1S/C7H14N6O.3ClH/c1-13-6(9)5(4-11-13)12-7(14)10-3-2-8;;;/h4H,2-3,8-9H2,1H3,(H2,10,12,14);3*1H
